US07902189B2
Procedure for the synthesis of 5-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-1,3-dihydro-pyrrolo[2,3-b]pyridin-2-one
To a 0.05 M solution of 5-bromo-1,3-dihydro-pyrrolo[2,3-b]pyridin-2-one (1 equiv) in dioxane was added bis(pinacolato)diboron (1.2 equiv) and potassium acetate (1.5 equiv) followed by 1,1′-bis(diphenylphosphino)ferrocene (0.05 equiv). The mixture was degassed with nitrogen for 20 minutes. PdCl2(dppf) (0.05 equiv) was added and the mixture degassed for a further 5 minutes. The reaction was then heated to 120° C. under an inert atmosphere for 8 hours. Upon completion, the reaction was cooled, filtered and concentrated in vacuo to give a crude residue which was purified by flash chromatography (SiO2) using EtOAc Hexanes—4:1 as eluent to give the desired product.

reactant | 5-bromo-1,3-dihydro-pyrrolo[2,3-b]pyridin-2-one | 1 equiv | BrC=1C=C2C(=NC1)NC(C2)=O | C7H5BrN2O
reactant | bis(pinacolato)diboron | 1.2 equiv | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 1.5 equiv | C(C)(=O)[O-].[K+]
solvent | dioxane | O1CCOCC1 | C4H8O2
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 0.05 equiv | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | PdCl2(dppf) | 0.05 equiv | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 5-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-1,3-dihydro-pyrrolo[2,3-b]pyridin-2-one | CC1(OB(OC1(C)C)C=1C=C2C(=NC1)NC(C2)=O)C | C13H17BN2O3
